US08809342B2
Part A: A round bottom flask was charged with (±)-ethyl 4-(1-((tert-butoxycarbonyl)(5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate (4.85 g, 8.92 mmol), DCM (60 mL) and TFA (15 mL). Reaction mixture stirred at room temperature for 3 hours. Sodium bicarbonate (sat. aq.) used to quench the excess TFA and the aqueous layer is extracted with DCM (3×). Combined organics washed with water (1×), brine (1×), dried over sodium sulfate filtered and concentrated to provide (±)-ethyl 4-(1-((5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate as a crude orange gum (4.01 g, quant.). No further purification before next step. MS (M+1): 444.3.

reactant | (±)-ethyl 4-(1-((tert-butoxycarbonyl)(5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate | 8.92 mmol, 4.85 g | C(C)(C)(C)OC(=O)N(C(CCC)C1=CC=C(C(=O)OCC)C=C1)C1=NC=C(N=C1)C1=CC=C(C=C1)C(F)(F)F | C29H32F3N3O4
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | (±)-ethyl 4-(1-((5-(4-(trifluoromethyl)phenyl)pyrazin-2-yl)amino)butyl)benzoate | FC(C1=CC=C(C=C1)C=1N=CC(=NC1)NC(CCC)C1=CC=C(C(=O)OCC)C=C1)(F)F | C24H24F3N3O2
